* ---------------------------------------------------------------
* analog/spice/models.lib - device models for EML analog cells
*
* Keep parts choice localized here so netlists stay portable.
* Models are Gummel-Poon NPN (2N3904-class) and a simple behavioural
* op-amp macromodel approximating an OP07 (precision, low-offset).
* Temperature parameters (XTI, EG, XTB) enable the temperature sweep.
* ---------------------------------------------------------------

* 2N3904-class NPN. Parameters tuned to match typical datasheet curves.
* IS, BF, VAF dominate the log/exp small-signal behaviour.
.model QNPN NPN(IS=6.734e-15 BF=416.4 VAF=74.03 IKF=0.06678 ISE=6.734e-15
+               NE=1.259 BR=0.7371 VAR=5 IKR=0 RB=10 RC=1
+               CJE=4.493p MJE=0.2593 VJE=0.75
+               CJC=3.638p MJC=0.3085 VJC=0.75
+               TF=301.2p TR=239.5n XTB=1.5 XTI=3 EG=1.11
+               KF=1e-16 AF=1)

* Matched NPN pair - identical to QNPN but a separate name for clarity
* (future mismatch can be introduced here via Monte Carlo)
.model QNPN_M NPN(IS=6.734e-15 BF=416.4 VAF=74.03 IKF=0.06678 ISE=6.734e-15
+                 NE=1.259 BR=0.7371 VAR=5 IKR=0 RB=10 RC=1
+                 CJE=4.493p MJE=0.2593 VJE=0.75
+                 CJC=3.638p MJC=0.3085 VJC=0.75
+                 TF=301.2p TR=239.5n XTB=1.5 XTI=3 EG=1.11
+                 KF=1e-16 AF=1)

* Simple behavioural op-amp subckt (OP07-like)
*   - DC open-loop gain Aol = Gerr * Rerr = 1e6
*   - GBW = Gerr / (2*pi*Cerr) ~ 0.6 MHz (single pole)
*   - Dominant pole  = GBW / Aol ~ 0.6 Hz
*   - Output clipping at rails - 0.2 V
*   - Input-referred white noise 10 nV/rtHz (through Rnoise)
.subckt opamp inp inm out vcc vee
Rin inp inm 1e12
Gerr 0 nerr inp inm 1.13e-4
Rerr nerr 0 8.85e9
Cerr nerr 0 30p
Bclip out 0 V = max(V(vee)+0.2, min(V(vcc)-0.2, V(nerr)))
Rnoise inm_noise 0 6.6k $ 6.6k at 300K => ~10 nV/rtHz
.ends opamp

* Diff-pair subtractor: V_out = V_b - V_a, gain 1
* (4-resistor topology: second pin minus first pin; all 10k)
.subckt diffamp va vb out vcc vee
Ra1 va a  10k
Ra2 a  ao 10k
Rb1 vb b  10k
Rb2 b  0  10k
Xop1 b a ao vcc vee opamp
Rof ao out 50
.ends diffamp
